US07795278B2
3-Methyl-5,6,7,8-tetrahydro-2H-isoquinolin-1-one (Compound 4)
8.45 g (53 mmol) of 3-methyl-2H-isoquinolin-1-one are dissolved in 80 ml of glacial acetic acid and, after addition of 168 mg (0.74 mmol) of platinum(IV) oxide, hydrogenated under 5 bar at RT for 8 h. The suspension is filtered and concentrated and the residue is recrystallized from methanol. 7.15 g (83%) of a colorless oil are obtained.

reactant | 3-methyl-2H-isoquinolin-1-one | 53 mmol, 8.45 g | CC=1NC(C2=CC=CC=C2C1)=O | C10H9NO
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 0.74 mmol, 168 mg | [Pt](=O)=O
product | 3-Methyl-5,6,7,8-tetrahydro-2H-isoquinolin-1-one | 7.15 g, 83% | CC=1NC(C=2CCCCC2C1)=O | C10H13NO
